US07994181B2
6-bromo-2-phenyl-quinazoline
To a suspension of 5-bromo-2-amino-benzylamine dihydrochloride (38 g, 0.138 mol) in dichloromethane (DCM) (1 l) was added at 0° C. triethylamine (TEA) (67.5 ml, 0.485 mol) and a solution of benzoyl chloride (17 ml, 0.145 mol) in DCM (200 ml). The mixture was stirred for 1 h at r.t. Water was added and the organic phase was separated, washed with water and dried over Na2SO4. The solvent was removed in vacuum (i.v.) and the residue suspended in POCl3 (200 ml). The mixture was heated at reflux for 1 hour, then the solvent was removed i.v., and the residue partitioned between AcOEt and 0.1 N NaOH. The organic layer was washed with 0.1 N NaOH and water, then dried over Na2SO4 and concentrated i.v. to provide a solid. A mixture of the obtained solid and chloranil (35 g, 0.138 mol) in toluene (600 ml) was heated at reflux for 4 hours. The mixture was concentrated i.v. and the residue was treated with DCM. The insoluble was filtered off and washed with DCM. The combined filtrates were washed with 0.1 N NaOH and then with water. The solution was dried over Na2SO4 and concentrated i.v. The obtained solid was triturated with methanol and dried i.v. (22 g, 56% yield). C14H9BrN2; MW: 285.15; 1H NMR (DMSO-d6) 9.70 (s, 1H), 8.49-8.56 (m, 3H), 8.17 (dd, 1H), 8.02 (d, 1H), 7.58-7.61 (m, 3H); TLC (AcOEt:PE 2:8) Rf=0.70.

reactant | 5-bromo-2-amino-benzylamine dihydrochloride | 0.138 mol, 38 g | Cl.Cl.BrC=1C=CC(=C(CN)C1)N
reactant | triethylamine | 0.485 mol, 67.5 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.145 mol, 17 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | chloranil | 0.138 mol, 35 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
solvent | DCM | 200 ml | ClCCl | CH2Cl2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 6-bromo-2-phenyl-quinazoline | 56% yield | BrC=1C=C2C=NC(=NC2=CC1)C1=CC=CC=C1 | C14H9BrN2
